US08981085B2
N-(4-(3-Amino-3-methylpiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-methoxyacetamide (65 mg, 0.16 mmol) was dissolved in a minimal amount of methanol and then added to a stirred solution of 4N HCl in dioxane. The resulting solid was filtered and dried under high vacuum to yield N-(4-(3-amino-3-methylpiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-methoxyacetamide hydrochloride (36 mg, 55% yield) as a solid. 1H NMR (400 MHz, (CD3)2SO) δ 11.90 (d, 1H), 9.38 (s, 1H), 8.26 (s, 1H), 8.24 (br s, 2H), 6.30 (br s, 3H), 4.11 (q, 2H), 3.43 (s, 3H), 3.30-3.21 (m, 1H), 3.20-3.05 (m, 3H), 2.00-1.90 (m, 1H), 1.86-1.75 (m, 3H), 1.46 (s, 3H); LCMS (APCI+) m/z 379, 396 (M)+, Retention time=1.90 minutes (Method 1).

reactant | N-(4-(3-Amino-3-methylpiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-methoxyacetamide | 0.16 mmol, 65 mg | NC1(CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(COC)=O)C | C16H22BrN5O2
reactant | HCl | 4N | Cl | ClH
solvent | methanol | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-(4-(3-amino-3-methylpiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-methoxyacetamide hydrochloride | 36 mg, 55% yield | Cl.NC1(CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(COC)=O)C | InChI=1S/C16H22BrN5O2.ClH/c1-16(18)4-3-5-22(9-16)14-10(17)6-19-15-13(14)11(7-20-15)21-12(23)8-24-2;/h6-7H,3-5,8-9,18H2,1-2H3,(H,19,20)(H,21,23);1H
